US09301951B2
Intermediate 188b: 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid
To tert-butyl 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoate was added 4M HCl in dioxane (25 mL). The mixture was stirred at room temperature for 3 hours, concentrated to give a light yellow solid which was used without further purification.

reactant | tert-butyl 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoate | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C36H37F3N4O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C32H29F3N4O4
